Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Motor vehicle crash
 
Major Surgical or Invasive Procedure:
___ Closed reduction of left posterior hip dislocation. 

 
History of Present Illness:
___ who presents as transfer from ___ for single car MVC 
and left hip dislocation. +airbag deployment, etoh and cocaine 
on board. Found in front seat by EMS complaining of L hip pain. 
Only obtained CXR and pelvis xray there.
Intoxicated on arrival, cannot tell me further history. Pain is 
severe, worse w/ movement
 
Past Medical History:
Unknown.
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
Temp: 98.2 HR: 86 BP: 137/92 Resp: 18 O(2)Sat: 100
Constitutional: uncomfortable, crying out in pain and
intoxicated
HEENT: Normocephalic, atraumatic
in c-collar
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds, +2 ___ pulses bilaterally
Abdominal: Soft, Nontender, Nondistended
Extr/Back: left leg shortened and internally rotated
Skin: Warm and dry, No rash
Neuro: able to flex ankle, sensation intact in LLE; slurred
speech
Psych: clinically intoxicated
___: No petechiae

DISCHARGE PHYSICAL EXAM:
VS: 98.1 PO 116 / 75 L Lying 72 18 95 R 
GEN: Awake, alert, pleasant and interactive.
HEENT: C-collar in place. Poor dentition.
CV: RRR
PULM: Clear to auscultation bilaterally. 
ABD: Soft, non-tender, non-distended.
EXT: Warm and dry. 2+ ___ pulses. bilateral ankle swelling and 
ecchymosis. 

 
Pertinent Results:
___ 07:00AM BLOOD WBC-5.6# RBC-4.12 Hgb-12.4 Hct-36.2 
MCV-88 MCH-30.1 MCHC-34.3 RDW-12.8 RDWSD-41.1 Plt ___
___ 06:22AM BLOOD WBC-13.8* RBC-4.52 Hgb-13.6 Hct-39.9 
MCV-88 MCH-30.1 MCHC-34.1 RDW-13.1 RDWSD-42.3 Plt ___
___ 06:22AM BLOOD ___ PTT-25.2 ___
___ 07:00AM BLOOD Glucose-101* UreaN-14 Creat-0.6 Na-141 
K-3.8 Cl-103 HCO3-27 AnGap-11
___ 06:22AM BLOOD Glucose-131* UreaN-7 Creat-0.7 Na-141 
K-3.8 Cl-101 HCO3-22 AnGap-18
___ 07:00AM BLOOD Calcium-8.9 Phos-2.4* Mg-2.2
___ 06:22AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ 8:57 am URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ chest/pelvis xray:
1. Posterior left hip dislocation. No fracture identified. 
2. Possible left pleural effusion; mediastinal injury cannot be 
excluded.  CT scanning of the chest is appropriate, given the 
severity of impact. 

___ CT-C spine:
1. Subtle avulsion fracture anterior corner C2 vertebral body. 
2. No other fractures. 
3. Normal alignment. 

___ CT Head:
1. No intracranial hemorrhage, edema, or acute fracture. 
2. Right frontal subgaleal hematoma. 

___ Hip xray:
1. Posterior left hip dislocation. 
2. No fractures identified. 

___ CT Pelvis:
Successful reduction of left posterior hip dislocation.  No 
fracture of the left hip or pelvis.  Stranding and a small 
amount of hemorrhage in the soft tissues posterior to the left 
hip. 

___ R Ankle Xray
ADDENDUM  This is a correction to the above report.   
Radiographs of the patients right ankle and foot were taken by 
mistake.  
Patient was brought back and AP and lateral views of the left 
foot and AP and oblique views of the left ankle were taken. 
Severe soft tissue swelling is symmetric at the ankle, centered 
just below the  malleoli.   Nevertheless, no fracture or 
dislocation is seen.  There are no  significant degenerative 
changes.  The mortise is congruent.  The tibial talar  joint 
space is preserved and no talar dome osteochondral lesion is 
identified.  No suspicious lytic or sclerotic lesion is 
identified.  No soft tissue calcification or radiopaque foreign 
body is identified. 

___ L Ankle Xray
Left foot and ankle: 
Soft tissue swelling surrounds the lower left ankle 
symmetrically.  There is  no evidence of fracture dislocation.  
There is no gross degenerative change.  There is no suspicious 
osseous abnormality. 

___ Right Shoulder:
No fracture or dislocation.

 
 
Brief Hospital Course:
Ms. ___ is a ___ yo F admitted to the Acute Care Surgery 
Service on ___ after a motor vehicle crash sustaining a C2 
vertebral body fracture and left hip dislocation. The orthopedic 
surgery team was consulted and bedside closed reduction of the 
hip was performed. The patient remained alert and oriented and 
stable from a hemodynamic standpoint. She was admitted to the 
acute care trauma surgery service for ongoing pain control and 
management of her injuries.

On HD1, she remained stable with hard cervical collar. Pain was 
controlled with oral oxycodone and she was placed on valium CIWA 
protocol. She remained stable from a cardiopulmonary standpoint. 
She tolerated a regular diet and voided adequate urine 
spontaneously without issues. She was seen and evaluated by 
physical therapy. The patient remained touch down weight bearing 
on the left lower extremity. Tertiary survey revealed no further 
acute injuries. On HD2 ___ clinic was contacted and dose 
confirmed. The patient continued to have adequate pain 
management.

The patient received counseling for substance abuse by the 
social worker and requested a prescription for nicotine patch in 
effort to stop smoking.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. After discussion of pain management, 
patient decided to manage new acute pain with Tylenol and 
ibuprofen and deferred need for additional narcotic medication 
(maintain baseline methadone). The patient was tolerating a 
diet, ambulating with assist, voiding without assistance, and 
pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.
 
Medications on Admission:
Methadone 75 mg daily
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Alternate with ibuprofen. Do not exceed 4,000 mg/24 hours. 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*28 Capsule Refills:*0 
3.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
___ take additional 200 mg (to equal 800 mg prn). Do not exceed 
3200 mg/24 hr. take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*42 Tablet Refills:*0 
4.  Nicotine Patch 14 mg TD DAILY  
5.  Methadone 75 mg PO DAILY  
6.Rolling walker
DX: Gait instability, Left hip dislocation
PX: Good
___: 13 months

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left hip dislocation s/p closed reduction  
C2 vertebral body fracture  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery Service on ___ 
after a motor vehicle crash sustaining multiple injuries 
including: a fracture in your cervical spine (neck), and a left 
hip dislocation. You were seen and evaluated by the spine team 
who recommended non-operative management of your cervical spine 
fracture with a C-collar at all time for stabilization. Your 
left hip was manually replaced by the orthopedic surgeon. You 
were seen and evaluated by physical therapy who recommended 
discharge to home with continued physical therapy and family 
assistance.

Please continue touch down weight bearing on the left leg and 
wear your cervical collar at all times. 

You are now doing better, tolerating a regular diet, and ready 
to be discharged to home to continue your recovery.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___